US06380215B1
A mixture of N-(benzyloxycarbonyl)-3(S)-phenylsulfonylmethy-β-alanine tert-butyl ester (0.44 g) and 10% Pd—C (0.1 g, 50% wet) in acetic acid (5 ml) was hydrogenated at 1 atmospheric pressure of hydrogen for 1 hour. The catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was dissolved in ethyl acetate and washed with saturated aqueous NaHCO3 solution. The organic layer was dried over MgSO4 and evaporated in vacuo to give 3(S)-phenylsulfonylmethy-βalanine tert-butyl ester (0.3 g) as a colorless oil.

reactant | N-(benzyloxycarbonyl)-3(S)-phenylsulfonylmethy-β-alanine tert-butyl ester | 0.44 g | C(C)(C)(C)OC(C[C@H](NC(=O)OCC1=CC=CC=C1)CS(=O)(=O)C1=CC=CC=C1)=O | C22H27NO6S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | 3(S)-phenylsulfonylmethy-βalanine tert-butyl ester | 0.3 g | C(C)(C)(C)OC(C[C@H](N)CS(=O)(=O)C1=CC=CC=C1)=O | C14H21NO4S
